US06057345
4-[2-(2-(Phenethyl)-3-pyridyl)ethyl]benzoic acid
Methyl 4-[2-(2-(2-hydroxy-2-(phenyl)ethyl)-3-pyridyl)ethenyl]benzoate (0.463 g, 1.29 mmol) was dissolved in ethanol (15 ml), acetic acid (3 drops) and 10% palladium on carbon (0.05 g).

reactant | Methyl 4-[2-(2-(2-hydroxy-2-(phenyl)ethyl)-3-pyridyl)ethenyl]benzoate | 1.29 mmol, 0.463 g | OC(CC1=NC=CC=C1C=CC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C23H21NO3
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 4-[2-(2-(Phenethyl)-3-pyridyl)ethyl]benzoic acid | C(CC1=CC=CC=C1)C1=NC=CC=C1CCC1=CC=C(C(=O)O)C=C1 | C22H21NO2
